US05179211
This diazonium salt solution was reacted, likewise continuously, with 2.55 mol of sodium sulphite/sodium bisulphite mixture per mole of aniline to form a phenylhydrazodisulphonate solution. A portion of this mixture, corresponding to 1.91 mol of aniline, was added dropwise at 80° C. to 200 ml of a 48% strength sulphuric acid (1.35 mol). After a reaction time of 2 h at 80° C., 225 ml (2.1 mol) of methyl isopropyl ketone were metered in in the course of 30 min. After a reaction time of 3 hours at 95° to 100° C., the mixture was cooled. The batch was neutralised and the organic phase was separated off and distilled. 273.8 g of 98.2% pure 2,3,3-trimethylindolenine were obtained. Yield: 88.4% of the theoretical yield, based on aniline.

reactant | aniline | 1.91 mol | NC1=CC=CC=C1 | C6H7N
reactant | sulphuric acid | 1.35 mol | S(O)(O)(=O)=O | H2O4S
reactant | methyl isopropyl ketone | 2.1 mol, 225 ml | C(C)(C)C(=O)C | C5H10O
product | 2,3,3-trimethylindolenine | 273.8 g, 98.2% | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
